Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: ___
 
Allergies: 
neomycin and polymyxin and dexamethasone eye oint / epinephrine
 
Attending: ___.
 
Chief Complaint:
Tachycardia 
 
Major Surgical or Invasive Procedure:
None 
 
History of Present Illness:
HISTORY OF THE PRESENTING ILLNESS: Ms. ___ is a ___ yo F w/ 
hx of hyperlipidemia, paroxysmal SVT, and OSA (mixed 
central/obstructive), presenting as a transfer from ___ 
due to elevated troponins. She endorsed feeling palpitations for 
two hours which did not improve with deep breathing or after 
taking her as needed metoprolol. In the ED she was found to be 
in SVT, which broke with adenosine. Trops notable for <0.01 --> 
0.074-->0.116. EKG showed ST depressions in lateral leads and 
was suggestive of AVNRT with retrograde p waves. Patient was 
given 324 mg PO aspirin, started on a heparin gtt, and 
transferred to ___. There was no associated chest pain, 
abdominal pain, or diaphoresis. 

Of note, she has a history of intermittent SVT for the past 
several years. She was previously followed by a cardiologist 
(Dr. ___ at ___ who prescribed her prn metoprolol 
which she uses very rarely. Initially was recommended to take 
metoprolol daily but decided not to because of baseline mild 
bradycardia. She has never been cardioverted or undergone 
radiofrequency ablation for her SVT. In ___, she had 
an episode of SVT with elevated troponins at ___, where 
she reportedly had a stress test which showed normal EF, mild 
MR/AI, good exercise capacity for age, normal HD response to 
exercise, and no inducible ischemia. The test was sub-optimal, 
however, as she did not reach target heart rate. This was her 
first hospitalization in several years for SVT. In ___ she 
underwent a month long loop monitor which showed APBs and short 
run of tachycardia to 170s. 

She denies peripheral edema, paroxysmal nocturnal dyspnea, 
orthopnea. She denies any symptoms of angina when walking which 
she does for 30 minutes daily. She has no history of smoking, 
hypertension, or diabetes. Family history is pertinent for 
myocardial infarction in her father at the age of ___. She also 
reports a recent carotid ultrasound which showed mild 
atherosclerosis of the left carotid artery. 

In the ___ ED, she denied any chest pain or palpitations. 
Vital signs: afebrile, HR 56, BP 122/74, RR 18, SpO2 98%RA. Labs 
notable for trop 0.07, PTT 150. EKG did not show ST-T changes. 
She remains on a heparin gtt. Atrius Cardiology was consulted 
who recommended troponin trending, risk stratifying, and 
admitting for monitoring. Upon arrival to the floor, she reports 
that she feels well and continues to be chest pain-free and 
without palpitations. 
 
Past Medical History:
# Sleep apnea, as detailed above.
# Mildly overweight BMI.
# Dyslipidemia.
# Osteopenia.
# Paroxysmal SVT.
# Sinus bradycardia.
# Dental issues with prior gum surgery, wears nearly full
dentures, upper front two teeth are native.
# GB polyp with plan to undergo lap-CCY

 
Social History:
___
Family History:
Father had a MI at the age of ___ and again at
the age of ___. She has extensive atherosclerosis and died of a
stroke. 

 
Physical Exam:
ADMISSION EXAM
=============
VITAL SIGNS:  ___ 0942 Temp: 97.5 PO BP: 133/80 HR: 55 RR:
20 O2 sat: 100% O2 delivery: ra 
GENERAL: Well-appearing, NAD
HEENT:  No scleral icterus. EOMI.  
NECK:  No regional lymphadenopathy.
CARDIAC:  RRR. S1/S2 present. No murmurs,rubs, or gallops. No
JVD.
LUNGS:  CTAB. 
ABDOMEN:  BS present. Soft, nontender, nondistended. No HSM. 
EXTREMITIES:  No peripheral edema 
NEUROLOGIC:  CN II-XII. No focal deficits. 

DISCHARGE EXAM
==============
VITAL SIGNS:  ___ 0704 Temp: 98.0 PO BP: 128/70 HR: 55 RR:
20 O2 sat: 97% O2 delivery: RA 
GENERAL: Well-appearing, NAD
HEENT:  No scleral icterus. EOMI.  
NECK:  No regional lymphadenopathy.
CARDIAC:  RRR. S1/S2 present. No murmurs,rubs, or gallops. No
JVD.
LUNGS:  CTAB. 
ABDOMEN:  BS present. Soft, nontender, nondistended. No HSM. 
EXTREMITIES:  No peripheral edema 
NEUROLOGIC:  CN II-XII. No focal deficits. 
      

 
Pertinent Results:
ADMISSION LABS
==============
___ 03:37AM BLOOD WBC-7.1 RBC-3.99 Hgb-12.2 Hct-36.2 MCV-91 
MCH-30.6 MCHC-33.7 RDW-12.8 RDWSD-41.9 Plt ___
___ 03:37AM BLOOD Neuts-70 Bands-0 ___ Monos-4* Eos-1 
Baso-0 Atyps-1* ___ Myelos-0 Promyel-1* AbsNeut-4.97 
AbsLymp-1.70 AbsMono-0.28 AbsEos-0.07 AbsBaso-0.00*
___ 03:37AM BLOOD ___ PTT-150* ___
___ 03:37AM BLOOD Glucose-98 UreaN-14 Creat-0.7 Na-145 
K-4.1 Cl-109* HCO3-23 AnGap-13
___ 03:37AM BLOOD cTropnT-0.07*
___ 03:37AM BLOOD Calcium-8.9 Mg-2.0
___ 07:35AM BLOOD Triglyc-93 HDL-51 CHOL/HD-2.7 LDLcalc-69
___ 07:35AM BLOOD TSH-3.6

IMAGING
=======

TTE ___:
Normal biventricular wall thicknesses, cavity sizes, and 
regional/global systolic function. Small secundum ASD vs. 
stretched PFO. EF 55-60%. 

MYCOCARDIAL PERFUSION IMAGING PHARM STRESS ___:
  
1. Normal myocardial perfusion. 
  
2. Normal left ventricular cavity size and systolic function.   
  

DISCHARGE LABS
==============
___ 07:40AM BLOOD WBC-4.6 RBC-4.60 Hgb-14.4 Hct-42.3 MCV-92 
MCH-31.3 MCHC-34.0 RDW-13.0 RDWSD-43.4 Plt ___
___ 07:35AM BLOOD ___ PTT-33.6 ___
___ 07:40AM BLOOD Glucose-102* UreaN-15 Creat-0.7 Na-144 
K-4.4 Cl-105 HCO3-28 AnGap-11
___ 09:12PM BLOOD cTropnT-0.02*
___ 07:35AM BLOOD cTropnT-0.02*
___ 07:40AM BLOOD Calcium-9.5 Phos-4.0 Mg-2.1
 
Brief Hospital Course:
Mrs. ___ is a ___ female with a history of 
paroxysmal SVT, hyperlipidemia, and OSA who presented as a 
transfer from ___ with elevated troponins in the setting 
of paroxysmal SVT, likely type II demand NSTEMI.

#Type II demand NSTEMI
Presented from outside hospital with peak troponin of 0.116 in 
the setting of sustained supraventricular tachycardia. EKG at 
the outside hospital was also concerning for ST depressions in 
the lateral leads. At the outside hospital, she was started on a 
heparin drip, given 324 mg of aspirin, and was given adenosine 
as described below for the supraventricular tachycardia. On 
admission to our hospital, her troponins were downtrending and 
EKG did not show any concerning changes for ischemia. Her 
heparin drip was discontinued due to low suspicion for ACS. This 
was her second admission this year for elevated troponins in the 
setting of sustained supraventricular tachycardia. At her last 
hospitalization a stress echo was performed, however the report 
indicated that she did not reach target heart rates. She was 
evaluated with a pharmacological stress test with myocardial 
perfusion imaging and repeat transthoracic echo. Her 
echocardiogram showed that her ejection fraction was 55% with no 
regional wall motion abnormalities. Her pharmacological stress 
test did not show any flow-limiting disease. Prior to discharge 
her troponins had down trended to 0.02. We continued her home 
atorvastatin dose at 10 mg nightly as her lipid panel was within 
normal limits. Discussed starting ASA 81 daily which patient 
opted to discuss with here PCP prior to starting. 

# Sustained SVT:
She has a long history of paroxysmal SVT for which she had a 
prescription of prn metoprolol. This episode of SVT lasted 2 
hours and was refractory to both breathing maneuvers and her 
home metoprolol. EKG suspicious for AVRT vs AVNRT. Once in the 
ED at ___ she was given adenosine which terminated the 
arrhythmia. She remained in a regular rate and rhythm after 
that. She is not currently followed by an electrophysiologist 
and was seen by inpatient EP team. She had a loop monitor in 
___ of this year which we reviewed and that showed several 
episodes of supraventricular tachycardia and daily heart rates 
in the ___. TSH was within normal limits. She was started on 
12.5 mg of metoprolol succinate daily with additional 
instructions to take a 25 mg tablet for sustained episodes of 
SVT. Outpatient follow-up with EP was also scheduled for further 
electrophysiology evaluation. 

CHRONIC ISSUES 
=============
#HLD: Continued atorvastatin. Fasting lipid profile this 
hospitalization was within normal limits.

#OSA: Patient noncompliant with CPAP at and we deferred ordering 
at this time. She has an outpatient sleep study scheduled with 
her pulmonologist for which she will follow-up.

#Gallbladder polyp: Patient reported that she was scheduled to 
undergo elective cholecystectomy on the day of admission for an 
incidentally found polyp. Given that her nuclear stress test was 
normal she is a good candidate to pursue this procedure when it 
can be rescheduled.

#Health care maintenance: Continued home vit D and magnesium 

TRANSITIONAL ISSUES
===================
[] PCP: ___ risk/benefit of taking ASA 81 daily
[] Consider increased dose of atorvastatin (currently on 
atorvastatin 10)
[] Follow-up with pulmonologist regarding deferred sleep study
[] Elective cholecystectomy for gallbladder polyp was missed due 
to this admission. Follow-up with surgeon to reschedule.
[] Electrophysiology appointment to discuss medical management 
versus radioablation therapy of SVT. 

# CODE: full 
# CONTACT: Name of health care proxy: ___ 
Relationship: Partner Phone number: ___ ___ 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Magnesium Oxide 250 mg PO BID 
2. Atorvastatin 10 mg PO QPM 
3. Vitamin D 800 UNIT PO DAILY 
4. Metoprolol Tartrate 12.5 mg PO ONCE:PRN SVT 

 
Discharge Medications:
1.  Metoprolol Succinate XL 12.5 mg PO DAILY 
RX *metoprolol succinate 25 mg 0.5 (One half) tablet(s) by mouth 
daily Disp #*20 Tablet Refills:*0 
2.  Metoprolol Tartrate 25 mg PO ONCE:PRN ongoing fast heart 
rate  
3.  Atorvastatin 10 mg PO QPM  
4.  Magnesium Oxide 250 mg PO BID  
5.  Vitamin D 800 UNIT PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Type II demand NSTEMI
Sustained supraventricular tachycardia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear ___

___ was a pleasure taking care of you at the ___ 
___!  

Why was I admitted to the hospital?  
=================================
- You were admitted because you had an episode of a prolonged 
fast heart rate which you have had in the past.  You were 
admitted to the hospital because there was concern for injury to 
your heart which we wanted to further evaluate. 

What happened while I was in the hospital?  
====================================
-You were evaluated with two imaging studies including an 
ultrasound of the heart and a pharmacological stress test.
-These two imaging studies showed that your heart was healthy 
and that there was no underlying disease in the blood vessels of 
your heart that make you prone to heart attacks. We also 
monitored the blood markers that indicated temporary injury to 
the heart, and these had returned to normal prior to discharge. 

What should I do after leaving the hospital?  
====================================
-  Please take your medications as listed in discharge summary 
and follow up at the listed appointments. 

Thank you for allowing us to be involved in your care, we wish 
you all the best!  

Sincerely,

Your ___ Healthcare Team  
 
Followup Instructions:
___